US08802864B2
c) 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-5-methyl-4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
To a microwave vial were added 4-(4-bromo-2-fluoro-5-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.160 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.20 mmol), cesium carbonate (0.39 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (0.0062 mmol). The mixture was purged with nitrogen and suspended in 1,4-dioxane (1 mL) and water (0.5 mL). The mixture was heated for 15 h at 100° C. Analysis by LCMS indicated desired product formation and consumption of starting material. The mixture was filtered through a syringe filter and purified by reverse phase HPLC (10-90% acetonitrile/water+0.1% TFA). The desired fractions were collected and added to a separatory funnel containing ethyl acetate. The aqueous phase was adjusted to pH˜6 with 1N aq HCl. The aqueous phase was extracted with ethyl acetate (3×), and the combined organics were washed with brine, dried over Na2SO4, and concentrated to afford the title product as a white solid (52 mg, 84%). MS(ES)+ m/e 472.2 [M+H]+.

reactant | 4-(4-bromo-2-fluoro-5-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.160 mmol | BrC1=CC(=C(C=C1C)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C18H20BrFN4O2
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.20 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | cesium carbonate | 0.39 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.0062 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[2-fluoro-5-methyl-4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 52 mg, 84% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C(=C1)C)C1=CC=C2C=CC=NC2=C1)F | C27H26FN5O2
